US08377938B2
Example 2-5) N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide ethanesulfonate
N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide (32.5 mg) was suspended in ethanol (0.325 ml). After adding ethanesulfonic acid (0.006 ml) at room temperature to form a solution, it was stirred at room temperature for 25 hours. The precipitate was collected by filtration and washed with ethanol (0.163 ml, 2 times). It was then dried under aeration at room temperature for 1 hour and dried with warm air at 60° C. for 12 hours to give the title compound (25.5 mg, 65%) as white crystals.

reactant | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide | 32.5 mg | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | C28H26F3N5O5
reactant | ethanesulfonic acid | 0.006 ml | C(C)S(=O)(=O)O | C2H6O3S
solvent | ethanol | 0.325 ml | C(C)O | C2H6O
product | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide ethanesulfonate | 25.5 mg, 65% | C(C)S(=O)(=O)O.FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | InChI=1S/C28H26F3N5O5.C2H6O3S/c29-16-1-3-17(4-2-16)33-25(38)12-28(6-7-28)13-26(39)34-22-10-21(31)23(11-20(22)30)41-19-5-8-32-24(9-19)35-27(40)36-14-18(37)15-36;1-2-6(3,4)5/h1-5,8-11,18,37H,6-7,12-15H2,(H,33,38)(H,34,39)(H,32,35,40);2H2,1H3,(H,3,4,5)
